US06235787B1
(E)-2′-(Cyclopentylmethyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide
The starting material was prepared in an analogous manner to that described in Example 15, part (iii), starting from (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide and cyclopentylmethyl methanesulphonate.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNS(=O)(=O)C)CC(C)C | C23H35N3O6S
reactant | cyclopentylmethyl methanesulphonate | CS(=O)(=O)OCC1CCCC1 | C7H14O3S
product | (E)-2′-(Cyclopentylmethyl)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | C1(CCCC1)CN(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NO)=O)=O)S(=O)(=O)C | C24H37N3O5S
